US07888503B2
A 5 mL microwave tube was charged with [2-fluoro-5-(4-pyridinyl)phenyl](3-nitrophenyl)methanone (100 mg), ethanol and ethylenediamine (100 mg) then heated to 180° C. for 600 s using microwave irradiation. The reaction was concentrated to dryness and residue was taken up in water then extracted with methylene chloride. The extracts were dried over magnesium sulfate, filtered and concentrated to an oil. Silica gel purification followed by trituration with ether provided 5-(3-nitrophenyl)-7-(4-pyridinyl)-2,3-dihydro-1H-1,4-benzodiazepine (60 mg) as a yellow powder. H1 NMR (d6-dmso): 8.42 (d, 2H), 8.28 (s, 1H), 8.27 (d, 1H), 7.84 (d, 1H), 7.66 (m, 2H), 7.38 (d, 2H), 7.26 (s, 1H), 6.92 (d, 1H), 6.79 (br s, 1H), 4.00 (m, 2H), 3.60 (m, 2H). Mass (ES+)=345.3 (100%).

reactant | [2-fluoro-5-(4-pyridinyl)phenyl](3-nitrophenyl)methanone | 100 mg | FC1=C(C=C(C=C1)C1=CC=NC=C1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C18H11FN2O3
reactant | ethylenediamine | 100 mg | C(CN)N | C2H8N2
solvent | ethanol | C(C)O | C2H6O
product | 5-(3-nitrophenyl)-7-(4-pyridinyl)-2,3-dihydro-1H-1,4-benzodiazepine | 60 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=NCCNC2=C1C=C(C=C2)C2=CC=NC=C2 | C20H16N4O2
